* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0020011402987815956
Fd1_1 0 s1 V1 -0.10005701493907979
Gr1_1_1 0 s1 x1_a1 0 -2845719266732.6387
Gr2_1_1 0 s1 x2_a1 0 2842007396603.9756
Gr3_1_1 0 s1 x3_a1 0 1788475508162.7566
Gr4_1_1 0 s1 x4_a1 0 -1771035584148.7717
Gr5_1_1 0 s1 x5_a1 0 67446634315.28332
Gr6_1_1 0 s1 x6_a1 0 -36014700707.97789
Gr7_re_1_1 0 s1 x7_re_a1 0 405131609.3771166
Gr7_im_1_1 0 s1 x7_im_a1 0 868190191.6489286
Gr8_1_1 0 s1 x8_a1 0 78262328.88812476
Gr9_re_1_1 0 s1 x9_re_a1 0 -1612143593.8065479
Gr9_im_1_1 0 s1 x9_im_a1 0 -2459406299.2311425
Gr10_re_1_1 0 s1 x10_re_a1 0 348687520.7469921
Gr10_im_1_1 0 s1 x10_im_a1 0 11022090.79098223
Gr11_re_1_1 0 s1 x11_re_a1 0 -474287182.4583746
Gr11_im_1_1 0 s1 x11_im_a1 0 -404438073.32320017
Gd1_2 0 s1 p2 0 0.003230673269270372
Fd1_2 0 s1 V2 0.1615336634635186
Gr1_1_2 0 s1 x1_a2 0 3598071471624.708
Gr2_1_2 0 s1 x2_a2 0 -3603160309314.669
Gr3_1_2 0 s1 x3_a2 0 -1635329086579.6587
Gr4_1_2 0 s1 x4_a2 0 1609344698032.8467
Gr5_1_2 0 s1 x5_a2 0 -47791877995.57142
Gr6_1_2 0 s1 x6_a2 0 35974588212.42596
Gr7_re_1_2 0 s1 x7_re_a2 0 -2759843266.465825
Gr7_im_1_2 0 s1 x7_im_a2 0 -1848741698.3058026
Gr8_1_2 0 s1 x8_a2 0 -40234562.43950215
Gr9_re_1_2 0 s1 x9_re_a2 0 5131827481.427975
Gr9_im_1_2 0 s1 x9_im_a2 0 2316439580.1668234
Gr10_re_1_2 0 s1 x10_re_a2 0 114804061.70462859
Gr10_im_1_2 0 s1 x10_im_a2 0 275684007.015984
Gr11_re_1_2 0 s1 x11_re_a2 0 153272975.90813076
Gr11_im_1_2 0 s1 x11_im_a2 0 -538953911.8416885
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.0136603952662905e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 9.854165591742124e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 3.757106584770845e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 3.859578001777716e-12
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.0978607410797316e-11
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.477678108869315e-11
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 3.8358577778275585e-11
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 46315788476.16836
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -46315788476.16836
Rp7_im_im_a1 0 x7_im_a1 3.8358577778275585e-11
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 2.635064070150094e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 3.3047509887224537e-11
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 45086010561.53108
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -45086010561.53108
Rp9_im_im_a1 0 x9_im_a1 3.3047509887224537e-11
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 2.156236726764103e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 60647400624.07282
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -60647400624.07282
Rp10_im_im_a1 0 x10_im_a1 2.156236726764103e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.3983908336146353e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 59647039169.67824
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -59647039169.67824
Rp11_im_im_a1 0 x11_im_a1 1.3983908336146353e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.003230673269270372
Fd2_1 0 s2 V1 0.1615336634635186
Gr1_2_1 0 s2 x1_a1 0 3598071471624.7085
Gr2_2_1 0 s2 x2_a1 0 -3603160309314.67
Gr3_2_1 0 s2 x3_a1 0 -1635329086579.6587
Gr4_2_1 0 s2 x4_a1 0 1609344698032.8474
Gr5_2_1 0 s2 x5_a1 0 -47791877995.571396
Gr6_2_1 0 s2 x6_a1 0 35974588212.42594
Gr7_re_2_1 0 s2 x7_re_a1 0 -2759843266.4658294
Gr7_im_2_1 0 s2 x7_im_a1 0 -1848741698.3058012
Gr8_2_1 0 s2 x8_a1 0 -40234562.4395033
Gr9_re_2_1 0 s2 x9_re_a1 0 5131827481.427984
Gr9_im_2_1 0 s2 x9_im_a1 0 2316439580.166819
Gr10_re_2_1 0 s2 x10_re_a1 0 114804061.70462884
Gr10_im_2_1 0 s2 x10_im_a1 0 275684007.01598424
Gr11_re_2_1 0 s2 x11_re_a1 0 153272975.90813082
Gr11_im_2_1 0 s2 x11_im_a1 0 -538953911.8416884
Gd2_2 0 s2 p2 0 -0.0012120141173326453
Fd2_2 0 s2 V2 -0.06060070586663227
Gr1_2_2 0 s2 x1_a2 0 -1523392895703.575
Gr2_2_2 0 s2 x2_a2 0 1525142485250.6248
Gr3_2_2 0 s2 x3_a2 0 745628353576.9257
Gr4_2_2 0 s2 x4_a2 0 -732910697304.81
Gr5_2_2 0 s2 x5_a2 0 16213724683.094252
Gr6_2_2 0 s2 x6_a2 0 -6696903050.689746
Gr7_re_2_2 0 s2 x7_re_a2 0 -665020260.3117166
Gr7_im_2_2 0 s2 x7_im_a2 0 303755097.7289932
Gr8_2_2 0 s2 x8_a2 0 320410.23120130587
Gr9_re_2_2 0 s2 x9_re_a2 0 527977971.60611594
Gr9_im_2_2 0 s2 x9_im_a2 0 -795125382.5382175
Gr10_re_2_2 0 s2 x10_re_a2 0 164230279.5540616
Gr10_im_2_2 0 s2 x10_im_a2 0 -71819195.56067117
Gr11_re_2_2 0 s2 x11_re_a2 0 -319047018.55659705
Gr11_im_2_2 0 s2 x11_im_a2 0 -87925683.73698997
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.0136603952662905e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 9.854165591742124e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 3.757106584770845e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 3.859578001777716e-12
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.0978607410797316e-11
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.477678108869315e-11
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 3.8358577778275585e-11
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 46315788476.16836
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -46315788476.16836
Rp7_im_im_a2 0 x7_im_a2 3.8358577778275585e-11
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 2.635064070150094e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 3.3047509887224537e-11
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 45086010561.53108
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -45086010561.53108
Rp9_im_im_a2 0 x9_im_a2 3.3047509887224537e-11
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 2.156236726764103e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 60647400624.07282
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -60647400624.07282
Rp10_im_im_a2 0 x10_im_a2 2.156236726764103e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.3983908336146353e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 59647039169.67824
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -59647039169.67824
Rp11_im_im_a2 0 x11_im_a2 1.3983908336146353e-10
.ENDS s_equivalent
