* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0396181169620237
Fd1_1 0 s1 V1 -1.980905848101185
Gr1_1_1 0 s1 x1_a1 0 5427984662938.262
Gr2_1_1 0 s1 x2_a1 0 -2628708955971.951
Gr3_1_1 0 s1 x3_a1 0 2166031450266.9702
Gr4_re_1_1 0 s1 x4_re_a1 0 134305281053.85257
Gr4_im_1_1 0 s1 x4_im_a1 0 -74566205513.25386
Gr5_1_1 0 s1 x5_a1 0 -579347349827.2147
Gr6_re_1_1 0 s1 x6_re_a1 0 -12865517931.937351
Gr6_im_1_1 0 s1 x6_im_a1 0 -36305430944.6389
Gr7_1_1 0 s1 x7_a1 0 55307358059.569496
Gd1_2 0 s1 p2 0 -0.055640077648360785
Fd1_2 0 s1 V2 -2.782003882418039
Gr1_1_2 0 s1 x1_a2 0 7649405060558.728
Gr2_1_2 0 s1 x2_a2 0 -3792774109964.988
Gr3_1_2 0 s1 x3_a2 0 3149941821638.848
Gr4_re_1_2 0 s1 x4_re_a2 0 198476657158.80573
Gr4_im_1_2 0 s1 x4_im_a2 0 -110262761264.14702
Gr5_1_2 0 s1 x5_a2 0 -851841188594.0096
Gr6_re_1_2 0 s1 x6_re_a2 0 -19329801726.461617
Gr6_im_1_2 0 s1 x6_im_a2 0 -53764516423.19635
Gr7_1_2 0 s1 x7_a2 0 80485135199.5209
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.5130397673503415e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 1.1452328717954888e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.711530546732418e-12
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.5286758821213696e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 90417094213.34537
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -90417094213.34537
Rp4_im_im_a1 0 x4_im_a1 1.5286758821213696e-11
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.0195955348832041e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 3.370308769318164e-11
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 65649688328.04182
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -65649688328.04182
Rp6_im_im_a1 0 x6_im_a1 3.370308769318164e-11
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 3.0607437428236513e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.055640077648360785
Fd2_1 0 s2 V1 -2.782003882418039
Gr1_2_1 0 s2 x1_a1 0 7649405060558.727
Gr2_2_1 0 s2 x2_a1 0 -3792774109964.985
Gr3_2_1 0 s2 x3_a1 0 3149941821638.8447
Gr4_re_2_1 0 s2 x4_re_a1 0 198476657158.80487
Gr4_im_2_1 0 s2 x4_im_a1 0 -110262761264.14687
Gr5_2_1 0 s2 x5_a1 0 -851841188594.007
Gr6_re_2_1 0 s2 x6_re_a1 0 -19329801726.461563
Gr6_im_2_1 0 s2 x6_im_a1 0 -53764516423.19614
Gr7_2_1 0 s2 x7_a1 0 80485135199.52057
Gd2_2 0 s2 p2 0 0.037327347638884706
Fd2_2 0 s2 V2 1.8663673819442355
Gr1_2_2 0 s2 x1_a2 0 -5154742251641.7705
Gr2_2_2 0 s2 x2_a2 0 2640465153226.442
Gr3_2_2 0 s2 x3_a2 0 -2216517532844.7275
Gr4_re_2_2 0 s2 x4_re_a2 0 -145553345602.02908
Gr4_im_2_2 0 s2 x4_im_a2 0 78198806320.79684
Gr5_2_2 0 s2 x5_a2 0 619514621924.695
Gr6_re_2_2 0 s2 x6_re_a2 0 13562083308.585552
Gr6_im_2_2 0 s2 x6_im_a2 0 39719475031.81196
Gr7_2_2 0 s2 x7_a2 0 -58884671726.07464
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.5130397673503415e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 1.1452328717954888e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.711530546732418e-12
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.5286758821213696e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 90417094213.34537
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -90417094213.34537
Rp4_im_im_a2 0 x4_im_a2 1.5286758821213696e-11
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.0195955348832041e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 3.370308769318164e-11
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 65649688328.04182
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -65649688328.04182
Rp6_im_im_a2 0 x6_im_a2 3.370308769318164e-11
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 3.0607437428236513e-11
.ENDS s_equivalent
