* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.0396243639373634
Fd1_1 0 s1 V1 -1.98121819686817
Gr1_1_1 0 s1 x1_a1 0 5431361615863.217
Gr2_1_1 0 s1 x2_a1 0 -2639217293047.1196
Gr3_1_1 0 s1 x3_a1 0 2178175755818.071
Gr4_re_1_1 0 s1 x4_re_a1 0 139099731203.14526
Gr4_im_1_1 0 s1 x4_im_a1 0 -74104630289.77126
Gr5_1_1 0 s1 x5_a1 0 -588491691272.6373
Gr6_re_1_1 0 s1 x6_re_a1 0 -14163056708.215248
Gr6_im_1_1 0 s1 x6_im_a1 0 -38787356381.00404
Gr7_1_1 0 s1 x7_a1 0 54843771507.94919
Gd1_2 0 s1 p2 0 -0.05565322330712974
Fd1_2 0 s1 V2 -2.782661165356487
Gr1_1_2 0 s1 x1_a2 0 7653622144880.31
Gr2_1_2 0 s1 x2_a2 0 -3804520719263.7656
Gr3_1_2 0 s1 x3_a2 0 3162948121728.1807
Gr4_re_1_2 0 s1 x4_re_a2 0 202681346554.90082
Gr4_im_1_2 0 s1 x4_im_a2 0 -111530225537.55882
Gr5_1_2 0 s1 x5_a2 0 -854910397323.0977
Gr6_re_1_2 0 s1 x6_re_a2 0 -22033592089.72099
Gr6_im_1_2 0 s1 x6_im_a2 0 -55627114535.30978
Gr7_1_2 0 s1 x7_a2 0 78037506817.56564
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.512369126523003e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 1.1458814203550339e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.711406450723409e-12
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.529841581614665e-11
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 90406556009.9522
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -90406556009.9522
Rp4_im_im_a1 0 x4_im_a1 1.529841581614665e-11
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 1.019525539824495e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 3.370839475350361e-11
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 65643923069.86522
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -65643923069.86522
Rp6_im_im_a1 0 x6_im_a1 3.370839475350361e-11
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 3.060844149640609e-11
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.05565322330712974
Fd2_1 0 s2 V1 -2.782661165356487
Gr1_2_1 0 s2 x1_a1 0 7653622144880.31
Gr2_2_1 0 s2 x2_a1 0 -3804520719263.7637
Gr3_2_1 0 s2 x3_a1 0 3162948121728.1777
Gr4_re_2_1 0 s2 x4_re_a1 0 202681346554.90033
Gr4_im_2_1 0 s2 x4_im_a1 0 -111530225537.55853
Gr5_2_1 0 s2 x5_a1 0 -854910397323.0962
Gr6_re_2_1 0 s2 x6_re_a1 0 -22033592089.7209
Gr6_im_2_1 0 s2 x6_im_a1 0 -55627114535.30968
Gr7_2_1 0 s2 x7_a1 0 78037506817.56555
Gd2_2 0 s2 p2 0 0.03733723352309719
Fd2_2 0 s2 V2 1.8668616761548595
Gr1_2_2 0 s2 x1_a2 0 -5157080051748.691
Gr2_2_2 0 s2 x2_a2 0 2647415089982.954
Gr3_2_2 0 s2 x3_a2 0 -2224173537611.7437
Gr4_re_2_2 0 s2 x4_re_a2 0 -147815079114.59656
Gr4_im_2_2 0 s2 x4_im_a2 0 80611753929.38933
Gr5_2_2 0 s2 x5_a2 0 616486629725.5056
Gr6_re_2_2 0 s2 x6_re_a2 0 16537568271.062565
Gr6_im_2_2 0 s2 x6_im_a2 0 40342116697.06079
Gr7_2_2 0 s2 x7_a2 0 -55746713800.76683
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.512369126523003e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 1.1458814203550339e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.711406450723409e-12
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.529841581614665e-11
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 90406556009.9522
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -90406556009.9522
Rp4_im_im_a2 0 x4_im_a2 1.529841581614665e-11
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 1.019525539824495e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 3.370839475350361e-11
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 65643923069.86522
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -65643923069.86522
Rp6_im_im_a2 0 x6_im_a2 3.370839475350361e-11
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 3.060844149640609e-11
.ENDS s_equivalent
